US08222281B2
(23A) 4-(4-Formylphenoxy)-1-naphthonitrile
4-Hydroxybenzaldehyde (300 mg, 2.46 mmol) was dissolved in dimethylacetoamide (8.0 mL), and 4-fluoro-naphthalene-1-carbonitrile (463 mg, 0.420 mmol) and cesium carbonate (1.20 g, 3.69 mmol) were sequentially added thereto at room temperature, and then, the resulting mixture was stirred under a nitrogen atmosphere at 120° C. for 2 hours. After the temperature of the reaction solution was returned to room temperature, water was added thereto, and the organic matter was extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride solution, then dried over anhydrous sodium sulfate and filtered. Then, the solvent was distilled off under reduced pressure, whereby a crude product was obtained. This crude product was purified by silica gel column chromatography (hexane:ethyl acetate=95:5 to 70:30 (v/v)), whereby the objective title compound was obtained (515 mg, yield: 77%).

reactant | 4-Hydroxybenzaldehyde | 2.46 mmol, 300 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 4-fluoro-naphthalene-1-carbonitrile | 0.420 mmol, 463 mg | FC1=CC=C(C2=CC=CC=C12)C#N | C11H6FN
reactant | cesium carbonate | 3.69 mmol, 1.20 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | dimethylacetoamide | 8.0 mL | CC(C(=O)N)C | C4H9NO
product | 4-(4-Formylphenoxy)-1-naphthonitrile | yield: 77% | C(=O)C1=CC=C(OC2=CC=C(C3=CC=CC=C23)C#N)C=C1 | C18H11NO2
